US07981918B2
(3R-5S)-(−)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one
Add (R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(3,5-dichloro-4′-fluoro-biphenyl-4-ylmethyl)-4-oxo-butyraldehyde (Preparation 94) (1.13 mmoles; 580.00 mg) (dissolved in 5 ml dichloromethane) to (S)-(4,5,6,7-tetrahydro-1H-indazol-5-yl)amine 1.13 mmoles; 154.69 mg) dissolved in 5 ml Acetonitrile (5 mL). Cool the mixture in an ice water bath and add sodium triacetoxyborohydride (3.38 mmoles; 716.94 mg) portion wise. Remove the cooling bath and warm the mixture to ambient. Cool the mixture in an ice water bath and quench with 10 ml saturated sodium bicarbonate. Add 15 ml of ethyl acetate followed by 10 ml of brine. Charge the solution to a separatory funnel and separate the organic layer, dry over magnesium sulfate, filter, and concentrate to ⅓ volume. Add a seed crystal of (R)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-(S)-4,5,6,7-tetrahydro-2H-indazol-5-yl-pyrrolidin-2-one. Stir the solution at ambient temperature for 16 hours. Crystallization occurs and cool the mixture in an ice-water bath. Filter the cold mixture, collect the solid, and dry to give 284 mg of a white solid-crop A. LCMS=100% (M+1) at 458 amu. To the filtrate (now dry after evaporation), add 10 ml of MTBE to crystallize the rest of the product to obtain 89 mg white solid-crop B. LCMS=100% (M+1) at 458 amu 0.373/0.52=71.7%.

reactant | (R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(3,5-dichloro-4′-fluoro-biphenyl-4-ylmethyl)-4-oxo-butyraldehyde | 1.13 mmoles, 5 ml, 580.00 mg | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=O)CC1=C(C=C(C=C1Cl)C1=CC=C(C=C1)F)Cl)=O | C27H22Cl2FNO4
reactant | (S)-(4,5,6,7-tetrahydro-1H-indazol-5-yl)amine | 1.13 mmoles | N1N=CC=2C[C@H](CCC12)N | C7H11N3
reactant | sodium triacetoxyborohydride | 3.38 mmoles, 716.94 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Acetonitrile | 5 ml | C(C)#N | C2H3N
product | (3R-5S)-(−)-3-(3,5-Dichloro-4′-fluoro-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | 284 mg | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)[C@@H]1CC2=CNN=C2CC1)=O)Cl)C1=CC=C(C=C1)F | C24H22Cl2FN3O
